US04808579
t-Butyl (S)-[1-[(diphenylmethylene)amino]-2-oxo-3-azetidinyl]-carbamate; (4a)
A solution of 7.9 ml (0.05 mol) of diethyl azidodicarboxylate in 50 ml of tetrahydrofuran was added to a stirred solution of 9.6 g, (0.05 mol) of N-(t-butyloxycarbonyl)-L-serine-2-(diphenylmethylene)hydrazide and 9.6 g, (0.05 mol) of triphenylphosphine in 250 ml of tetrahydrofuran. The mixture was stirred and heated at 55° C. for 6 hours. The resulting solution was evaporated to dryness in vacuo. The residue was dissolved in 50 ml of ethyl acetate and chilled. The crystalline precipitate was removed by filtration and the filtrate was evaporated to dryness. The residue was chromatographed on silica gel using ethyl acetate-hexane (1:1) as the eluent to afford 12.0 g (66%) of the desired product; mp 167°-170° C.; IR (KBr) 1775 cm-1 (C=O); NMR (CDCL3) δ1.38 (s, 9H, (CH3)3C), 2.85 (dd, 1H, J=3 and 6 Hz, 4βH), 3.25 (t, 1H, J=6 and 6 Hz, 4αH), 4.70 (m, 1H, 3αH), 5.25 (d, 1H, NH), 7.40 (m, 10H, aromatic protons).

reactant | N-(t-butyloxycarbonyl)-L-serine-2-(diphenylmethylene)hydrazide | 0.05 mol | C1(=CC=CC=C1)C(=NNC([C@@H](NC(=O)OC(C)(C)C)CO)=O)C1=CC=CC=C1 | C21H25N3O4
reactant | triphenylphosphine | 0.05 mol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | t-Butyl (S)-[1-[(diphenylmethylene)amino]-2-oxo-3-azetidinyl]-carbamate | 12.0 g, 66% | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NN1C([C@H](C1)NC(OC(C)(C)C)=O)=O | C21H23N3O3
